US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-[2-(pyridin-3-ylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for Example 369 and using 7-piperidin-4-yl-5-[2-(pyridin-3-ylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting acetyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 20 mg (40%) of the desired product was isolated. 1H NMR (400 MHz, CD3OD) δ 8.47 (s, 1 H) 7.47-7.87 (m, 2 H) 7.82-7.86 (m, 3 H) 7.67 (s, 1 H) 7.43 (dd, 1 H) 7.26 (d, 1 H) 6.61 (s, 1 H) 5.75 (s, 2 H) 4.76 (dd, 1 H) 4.02 (dd, 1 H) 3.21-3.50 (m, 2 H) 2.82 (dd, 1 H) 2.14-2.26 (m, 5 H) 1.88 (dt, 2 H). LC-MS [M+H]*=467.4, RT=0.44 min.

reactant | 7-piperidin-4-yl-5-[2-(pyridin-3-ylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC=2C=NC=CC2 | C24H24N8
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 7-(1-acetylpiperidin-4-yl)-5-[2-(pyridin-3-ylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 20 mg, 40% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC=2C=NC=CC2 | C26H26N8O
